US09120777B2
F) 4,5-Dicyclopropyl-3-fluoro-2-isopropoxybenzaldehyde
2-Iodopropane (862 mg) was added at room temperature to a mixture of 4,5-dicyclopropyl-3-fluoro-2-hydroxybenzaldehyde (744 mg), potassium carbonate (934 mg), and DMF (20 mL), and the mixture was stirred at 60 C for 2 hours in a nitrogen atmosphere. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (865 mg).

reactant | 2-Iodopropane | 862 mg | IC(C)C | C3H7I
reactant | 4,5-dicyclopropyl-3-fluoro-2-hydroxybenzaldehyde | 744 mg | C1(CC1)C1=C(C(=C(C=O)C=C1C1CC1)O)F | C13H13FO2
reactant | potassium carbonate | 934 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4,5-Dicyclopropyl-3-fluoro-2-isopropoxybenzaldehyde | 865 mg | C1(CC1)C1=C(C(=C(C=O)C=C1C1CC1)OC(C)C)F | C16H19FO2
